US06194461B1
1) N-(2,4-difluorophenylmethyl)-N-[dimethyl(t-butyldimethylsiloxymethyl)methyl]amine
To a solution of 2,4-difluorobenzaldehyde (1.42 g, 10.0 mmol) in toluene (30 ml) was added 1-t-butyldimethylsiloxy-2-methyl-2-propylamine (2.03 g, 10.0 mmol) and stirred under reflux using a Dean-Stark trap to remove water for 6 hours. The solvent was evaporated and the residue was dissolved in methanol (10 ml). The solution was cooled to 0° C. in ice-water bath and an excess amount of NaBH4 was added. The mixture was gradually warmed to room temperature and stirring was continued until the Schiff base disappeared. The mixture was added to 1N NaOH aqueous solution, extracted with toluene, washed with sat. NaCl aqueous solution and dried over MgSO4. The solvent was evaporated to give the crude title compound (2.92 g; 92% in 2 steps).

reactant | 2,4-difluorobenzaldehyde | 10.0 mmol, 1.42 g | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 1-t-butyldimethylsiloxy-2-methyl-2-propylamine | 10.0 mmol, 2.03 g | O([Si](C)(C)C(C)(C)C)CC(C)(C)N | C10H25NOSi
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,4-difluorophenylmethyl)-N-[dimethyl(t-butyldimethylsiloxymethyl)methyl]amine | 2.92 g, 92% | FC1=C(C=CC(=C1)F)CNC(CO[Si](C)(C)C(C)(C)C)(C)C | C17H29F2NOSi
